US04898872
3,4-Dihydro-4,4,8-trimethyl-6-[(N-2-aminophenyl)-amino]-2-(1H)-quinolone
This compound, m.p. 90°, was prepared similarly to Preparation 17 using 3,4-dihydro-4,4,8-trimethyl-6-[(N-2-nitrophenyl)-amino]-2-(1H)-quinolone hydrogen and palladised charcoal as starting materials. The product was characterised spectroscopically and used directly in Example 14.

reactant | 3,4-dihydro-4,4,8-trimethyl-6-[(N-2-nitrophenyl)-amino]-2-(1H)-quinolone hydrogen | CC1(CC(NC2=C(C=C(C=C12)NC1=C(C=CC=C1)[N+](=O)[O-])C)=O)C.[H][H]
reactant | charcoal | C | CH4
product | 3,4-Dihydro-4,4,8-trimethyl-6-[(N-2-aminophenyl)-amino]-2-(1H)-quinolone | CC1(CC(NC2=C(C=C(C=C12)NC1=C(C=CC=C1)N)C)=O)C | C18H21N3O
